US04439514
N,N'-Bis(2,4-Dinitro-5-fluorophenyl)-2,4-hexadiyn-1,6-diamine
To a suspension of Cu(OAc)2.H2O (1.5 g) in pyridinemethanol (1:1, 10 ml) was added N-(2-propynyl)-2,4-dinitro-5-fluoroaniline (1.00 g, 4.18×10-3 mole). The reaction mixture was stirred at room temperature for 17 hours. The mixture was poured into excess water and filtered. The crude solid was chromatographed on a silica column, eluting with chloroform ethyl acetate. Soxhlet recrystallization of the resulting solid from ethyl acetate afforded yellow crystals, m.p. 225° C. dec. Yield: 0.21 g (12%). I.R. (KBr): 3360 (NH), 1680 and 1315 cm-1 (Ar-NO2).

reactant | N-(2-propynyl)-2,4-dinitro-5-fluoroaniline | 4.18×10-3 mole, 1.00 g | C(C#C)NC1=C(C=C(C(=C1)F)[N+](=O)[O-])[N+](=O)[O-] | C9H6FN3O4
reactant | water | O | H2O
solvent | pyridinemethanol | 10 ml | N1=C(C=CC=C1)CO | C6H7NO
catalyst | Cu(OAc)2.H2O | 1.5 g | CC(=O)[O-].CC(=O)[O-].[Cu+2].O
product | N,N'-Bis(2,4-Dinitro-5-fluorophenyl)-2,4-hexadiyn-1,6-diamine | [N+](=O)([O-])C1=C(C=C(C(=C1)[N+](=O)[O-])F)NCC#CC#CCNC1=C(C=C(C(=C1)F)[N+](=O)[O-])[N+](=O)[O-] | C18H10F2N6O8
